US08283354B2
To a solution of ethyl((S)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate (89 mg, 0.2 mmol) in 2 mL CH2Cl2 under an N2 atmosphere was added ether (10 mL) followed by the dropwise addition of a 2.0 M solution of HCl in ether (0.1 mL, 0.2 mmol) which resulted in precipitation of ethyl((S)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate hydrochloride which was then filtered and dried (85 mg, 90%). LC/MS: m/z 439.5 (M+H)+ at 2.37 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.26 (d, J=8.5 Hz, 1H), 7.57 (s, 1H), 7.45 (m, 2H), 6.81 (m, 2H), 4.57 (m, 2H), 3.89 (m, 2H), 3.52 (m, 1H), 3.36 (m, 1H), 2.95 (s, 2H), 2.52 (s, 3H), 1.86 (m, 3H), 1.66 (m, 1H), 1.39 (m, 1H), 1.07 (t, J=6.6 Hz, 3H).

reactant | ethyl((S)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate | 0.2 mmol, 89 mg | C(C)OC(NC[C@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1O)F)=O | C24H27FN4O3
reactant | ether | 10 mL | CCOCC | C4H10O
reactant | HCl | Cl | ClH
reactant | ether | 0.2 mmol, 0.1 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | ethyl((S)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate hydrochloride | Cl.C(C)N(C(O)=O)C[C@@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1O)F | InChI=1S/C24H27FN4O3.ClH/c1-3-28(24(31)32)13-16-6-5-11-29(14-16)23-17-10-9-15(2)12-19(17)26-22(27-23)21-18(25)7-4-8-20(21)30;/h4,7-10,12,16,30H,3,5-6,11,13-14H2,1-2H3,(H,31,32);1H/t16-;/m1./s1
